US06235740B1
A. 2,6-Dimethylphenylboronic acid
A 1.0 M solution of 2,6-dimethylphenylmagnesium bromide in THF (20 ml; 20 mmol) was added over 5 minutes to a solution of trimethylborate (4.5 ml; 40 mmol) in 50 ml of THF at −78° C. The reaction mixture was allowed to warm to room temperature and stir 18 hr. Mter cooling to 0° C., 50 ml of 2 N HCl was added and the resulting mixture was stirred 30 minutes at 0° C. The mixture was partitioned between water (100 ml) and CH2Cl2 (100 ml). The aqueous layer was extracted with CH2Cl2 (2×100 ml) and the combined organic layers were dried (MgSO4) and concentrated to afford a quantitative recovery of the crude title compound of this step. This material was used in the next step without further purification.

reactant | 2,6-dimethylphenylmagnesium bromide | CC1=C(C(=CC=C1)C)[Mg]Br
reactant | trimethylborate | 40 mmol, 4.5 ml | COB(OC)OC | C3H9BO3
reactant | HCl | 2 N, 50 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 mmol, 20 ml | C1CCOC1 | C4H8O
product | 2,6-Dimethylphenylboronic acid | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
